US05616537
Preparation of 1-Benzoyl-5-[(4,6-dimethoxypyrimidin-2-yl)oxy]-3-ethoxycarbonyl-2-methylindol-4-carboxylic Acid (Compound No. 797)
1.6 g of benzyl 1-benzoyl-5-[(4,6-dimethoxypyrimidin-2-yl)oxy]-3-ethoxycarbonyl-2-methylindol-4-carboxylate was dissolved in 50 ml of ethyl acetate, and 0.1 g of 10% palladium carbon was added thereto. Then, catalytic reduction was conducted. Insoluble matters were filtered off, and then filtrate was concentrated under reduced pressure. The residue thereby obtained was washed with isopropyl ether to obtain 1.28 g (yield: 97%) of the desired compound. mp: 113°-115° C.

reactant | benzyl 1-benzoyl-5-[(4,6-dimethoxypyrimidin-2-yl)oxy]-3-ethoxycarbonyl-2-methylindol-4-carboxylate | 1.6 g | C(C1=CC=CC=C1)(=O)N1C(=C(C=2C(=C(C=CC12)OC1=NC(=CC(=N1)OC)OC)C(=O)OCC1=CC=CC=C1)C(=O)OCC)C | C33H29N3O8
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium carbon | 0.1 g | [C].[Pd]
product | 1-Benzoyl-5-[(4,6-dimethoxypyrimidin-2-yl)oxy]-3-ethoxycarbonyl-2-methylindol-4-carboxylic Acid | 1.28 g, yield: 97% | C(C1=CC=CC=C1)(=O)N1C(=C(C=2C(=C(C=CC12)OC1=NC(=CC(=N1)OC)OC)C(=O)O)C(=O)OCC)C | C26H23N3O8
